US05401880
To a solution of pantoylphenylalanine methyl ester (0.85 g, 2.7 mmol) in methanol, 3.85 ml of 1.00M sodium hydroxide was added very slowly, with stirring. The progress of the hydrolysis was monitored by TLC. After 18 h, the reaction mixture was acidified by the addition of 3.9 ml of 1.00M hydrochloric acid to pH 3.2, concentrated on a rotary evaporator, and diluted with ethyl acetate. The phases were separated, and the aqueous solution was extracted with additional ethyl acetate. The combined organic extracts were dried voer anhydrous sodium sulfate, gravity filtered, the solvent removed on a rotary evaporator. The resulting white solid was dried in a vacuum oven (65° C., 0.2 mm Hg, 24 h), to yield pantoylphenylalanine (0.78 g).

reactant | pantoylphenylalanine methyl ester | 2.7 mmol, 0.85 g | COC([C@@H](NC([C@H](O)C(C)(C)CO)=O)CC1=CC=CC=C1)=O | C16H23NO5
reactant | hydrochloric acid | 1.00M, 3.9 ml | Cl | ClH
solvent | methanol | CO | CH4O
solvent | sodium hydroxide | 1.00M, 3.85 ml | [OH-].[Na+]
product | pantoylphenylalanine | 0.78 g | C([C@H](O)C(C)(C)CO)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C15H21NO5
